US07468380B2
N1-Methyl-5-(2-((4-(2-hydroxy-2-methylpropionyl)piperazin-1-yl)carbonyl)amino-4-pyridyl)oxy-1H-indolecarboxamide
N1-Methyl-5-(2-amino-4-pyridyl)oxy-1H-1-indolecarboxamide (150 mg, 0.53 mmol) synthesized in Production example 5-1 was dissolved in tetrahydrofuran (3 ml). Triethylamine (0.37 ml, 2.66 mmol) and phenyl chlorocarbonate (0.15 ml, 1.2 mmol) were sequentially added dropwise at room temperature, and the reaction mixture was stirred for 30 minutes. 1-(2-Hydroxy-2-methylpropionyl)piperazine (412 mg, 2.39 mmol) and N,N-dimethylformamide (3 ml) were added and the reaction mixture was stirred for 3 days. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was distilled off, and the residue was purified by silica gel column chromatography (eluent; ethyl acetate:methanol=95:5). The crystals were precipitated from diethyl ether-hexane (1:2), filtered off, and dried under aeration to yield the title compound (189.4 mg, 0.39 mmol, 74.2%) as white crystals.

reactant | N1-Methyl-5-(2-amino-4-pyridyl)oxy-1H-1-indolecarboxamide | 0.53 mmol, 150 mg | CNC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)N | C15H14N4O2
reactant | Triethylamine | 2.66 mmol, 0.37 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chlorocarbonate | 1.2 mmol, 0.15 ml | C(OC1=CC=CC=C1)(=O)Cl | C7H5ClO2
reactant | 1-(2-Hydroxy-2-methylpropionyl)piperazine | 2.39 mmol, 412 mg | OC(C(=O)N1CCNCC1)(C)C | C8H16N2O2
reactant | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | N1-Methyl-5-(2-((4-(2-hydroxy-2-methylpropionyl)piperazin-1-yl)carbonyl)amino-4-pyridyl)oxy-1H-indolecarboxamide | 0.39 mmol, 189.4 mg, 74.2% | CN1C(=CC2=CC(=CC=C12)OC1=CC(=NC=C1)NC(=O)N1CCN(CC1)C(C(C)(C)O)=O)C(=O)N | C24H28N6O5
